US04329347
6-[4-(3-Methyl-4-bromo-phenylmercapto)-butoxy]-carbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-carbostyril (m.p. 189°-199° C.) and 3-methyl-4-bromo-thiophenol.

reactant | 6-(4-bromobutoxy)-carbostyril | BrCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14BrNO2
reactant | 3-methyl-4-bromo-thiophenol | CC=1C=C(C=CC1Br)S | C7H7BrS
product | 6-[4-(3-Methyl-4-bromo-phenylmercapto)-butoxy]-carbostyril | CC=1C=C(C=CC1Br)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C20H20BrNO2S
